Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Endo leak
 
Major Surgical or Invasive Procedure:
___: Embolization of proximal right internal iliac artery. 
Placement of a Gore extension limb in the right common iliac 
artery extending to the right external iliac artery.

 
History of Present Illness:
___ gentleman, whoseveral years ago underwent 
endovascular repair with a Gore device for an aneurysm.  He 
developed an endoleak with sac
expansion that required several coil interventions.  However, 
despite this, it continued to extend and eventually in ___, he 
had an explantation performed.  He is now a year out and had on 
most recent CT scan sac expansion or what is a pseudo sac 
expansion, as the aorta was not really closed over it.
He was admitted to the hospital for arteriogram and possible 
repair.

 
Past Medical History:
PMH: appendectomy, hemorrhoid, and lipoma  
PSH: 
- CABG x4, ___  
- Appendectomy in ___  
- Hemorrhoid surgery  
- Lipoma excision ___  
- Recurrent left inguinal hernia repair ___  
- EVAR ___, redo EVAR ___ c/b recurrent endoleak s/p open 
repair with aorto-bi-iliac bypass graft ___  
EVAR with attempts to coil embolization  

 
Physical Exam:
Alert and oriented x 3 
VS:BP  122/60      HR  76         
Carotids: 2+, no bruits or JVD
Resp: Lungs clear
Abd: Soft, non tender
Ext: Pulses:      Left  Femoral palp,    DP palp   ,___ dop
                  Right Femoral palp,    DP -      ,___ dop
Feet warm,  well perfused.  No open areas
Left groin puncture site: Dressing clean dry and intact. Soft, 
no hematoma or ecchymosis.

 
Pertinent Results:
___ 04:15AM BLOOD WBC-9.5 RBC-3.85* Hgb-12.7* Hct-38.7* 
MCV-101* MCH-32.9* MCHC-32.7 RDW-15.2 Plt ___
___ 04:15AM BLOOD Glucose-129* UreaN-12 Creat-0.9 Na-136 
K-3.9 Cl-103 HCO3-23 AnGap-14
___ 06:18AM BLOOD Calcium-9.5 Phos-4.3 Mg-2.3
 
Brief Hospital Course:
The patient was brought to the operating room on ___ and 
underwent coil embolization of the right internal iliac artery 
and placement of a right common iliac artery extension limb.   
The procedure was without complications. 

He was closely monitored in the PACU and then transferred to the 
floor where he remained hemodynamically stable.   His diet was 
gradually advanced.  He is ambulatory with ad lib.     She was 
discharged to home on POD #1 in stable condition.  Follow-up has 
been arranged with Dr. ___ in one month  with surveillance 
CTA.
 
 
Medications on Admission:
1. Allopurinol ___ mg PO DAILY 
2. Amlodipine 10 mg PO DAILY 
3. Aspirin EC 325 mg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 
5. Colchicine 0.6 mg PO BID 
6. Atenolol 50 mg PO DAILY 
7. Pravastatin 20 mg PO DAILY 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Amlodipine 10 mg PO DAILY 
3. Aspirin EC 325 mg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 
5. Colchicine 0.6 mg PO BID 
6. Atenolol 50 mg PO DAILY 
7. Pravastatin 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Type 1B endoleak of right iliac limb of endovascular repair of 
an abdominal aortic aneurysm. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital 
after a CT scan showed a expanding area in your previously 
repaired abdomnal aortic aneurysm.  We did angiogram and placed 
a stent in the area that was causing the expansion. 
You tolerated the procedures well and are now ready to be 
discharged to home. Please follow the recommendations below to 
ensure a speedy and uneventful recovery.

Division of Vascular and Endovascular Surgery
Endovascular Abdominal Aortic Aneurysm (AAA) Discharge 
Instructions

MEDICATIONS:
•Take Aspirin 325mg (enteric coated) once daily 
•Do not stop Aspirin unless your Vascular Surgeon instructs you 
to do so. 
•Continue all other medications you were taking before surgery, 
unless otherwise directed
•You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

WHAT TO EXPECT AT HOME:
It is normal to have slight swelling of the legs:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated
It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
•Drink plenty of fluids and eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

ACTIVITIES:
•When you go home, you may walk and go up and down stairs
•You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
•No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
•After 1 week, you may resume sexual activity
•After 1 week, gradually increase your activities and distance 
walked as you can tolerate

 
Followup Instructions:
___